US09340510B2
(S)—N-(1-(4-Formylphenyl)ethyl)acetamide
To 20.0 g (74.3 mmol) (S)—N-(1-(4-bromophenyl)ethyl)acetamid (WO 2012/01107) in 300 mL THF are added dropwise 75.0 mL (187 mmol)N-butyllithium (2.5 M in THF) at −78° C. and stirred for 1 h. 10.0 mL (124 mmol) DMF are added dropwise to the mixture at −78° C. and stirred for 2 h. After that aq. NH4CI solution is added and extracted with EtOAc. The organic layer is dried over Na2SO4, filtered and concentrated by evaporation. The residue is purified by column chromatography (silica gel, MeOH:DCM).

reactant | (S)—N-(1-(4-bromophenyl)ethyl)acetamid | 74.3 mmol, 20.0 g | BrC1=CC=C(C=C1)[C@H](C)NC(C)=O | C10H12BrNO
reactant | N-butyllithium | 187 mmol, 2.5 M, 75.0 mL | [Li+].CCC[CH2-]
reactant | DMF | 124 mmol, 10.0 mL | CN(C)C=O | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (S)—N-(1-(4-Formylphenyl)ethyl)acetamide | C(=O)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C11H13NO2
